datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([S:10][H:16])[C:11](=[S:12])[H:17])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:13])([H:14])[H:15])([S:10][H:16])[C:11](=[S:12])[H:17],63.2202
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14],120.0808
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],125.98
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])[H:10])[H:9],22.5518
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],-8.11696
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])=[C:10]([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])([H:21])[H:22])[H:20])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])=[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([C:8](=[C:9]([H:24])[H:25])[H:23])[C:10]1([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])[H:15])([H:13])[H:14],126.106
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6])([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:16])[H:17])([H:7])([H:8])[H:9],164.599
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:14])[C:3]([O:7][O:8][H:19])([H:15])[C:4]([H:16])([H:17])[O:5]1)([H:12])[H:13])([H:9])([H:10])[H:11].[O:6][H:18],64.0152
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]1([H:13])[C:8]([H:14])([H:15])[C:9]([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]([H:20])([H:21])[C:12]1([H:22])[H:23]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]1([H:13])[C:8]([H:14])([H:15])[C:9]([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]([H:20])([H:21])[C:12]1([H:22])[H:23],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1]1([H:15])[C:2]([H:16])([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]2=[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])[C:11]12[H:28])([H:12])([H:13])[H:14],42.1994
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([C:12](=[S:13])[H:16])([H:14])[H:15],26.3592
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[H:9]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:5].[H:4][H:9],0.0
[C:0]([H:1])([H:2])([H:3])[H:4].[O:5][H:6]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:5][H:6],10.485104
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]=[C:16]([S:17][H:19])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:19])[H:8])([H:6])[H:7].[S:15]=[C:16]([S:17])[H:18],44.3504
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[O:8][O:9]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:8][O:9],212.38
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],23.4304
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7]([H:8])([H:9])[H:10],16.485
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[Cl:10]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][Cl:10],4.90554
[C:0]([H:1])([H:2])[H:3].[I:4]>>[C:0]([H:1])([H:2])([H:3])[I:4],0.0
